US05137653
5.49 g of (+)-2-methylbutanoic acid,8.50 g of 4-hydroxy biphenyl and 20 ml of toluene were charged into a flask and then 4.0 ml (55 mmol) of thionyl chloride was added thereto with stirring. The resulting mixture was maintained at a temperature of 70°~80° C. and reacted for 8 hours. After the completion of the reaction, the resulting product was cooled to room temperature, added with water to decompose the excess amount of thionyl chloride, washed with water and dried on anhydrous magnesium sulfate. After the removal of solvent, it was purified by a column chromatography of silica gel to obtain 12.69 g of (+)-2-methylbutanoic acid biphenyl having an oily specific rotation [α]25 (16.46 wt% in chloroform) of +15.1°.

reactant | (+)-2-methylbutanoic acid | 5.49 g | CC(C(=O)O)CC | C5H10O2
reactant | 4-hydroxy biphenyl | 8.50 g | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 55 mmol, 4.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | (+)-2-methylbutanoic acid biphenyl | 12.69 g | C1(=CC=CC=C1)C1=CC=CC=C1.CC(C(=O)O)CC | InChI=1S/C12H10.C5H10O2/c1-3-7-11(8-4-1)12-9-5-2-6-10-12;1-3-4(2)5(6)7/h1-10H;4H,3H2,1-2H3,(H,6,7)
